* Subcircuit MC1455B_ic1
.subckt MC1455B_ic1 ? net-_q11-pad2_ net-_d2-pad1_ net-_q3-pad2_ net-_q9-pad2_ net-_q1-pad2_ net-_q5-pad1_ net-_q18-pad3_ 
* c:\fossee\esim\library\subcircuitlibrary\mc1455b_ic1\mc1455b_ic1.cir
.include NPN.lib
.include PNP.lib
.include D.lib
q2 net-_q1-pad1_ net-_q1-pad1_ net-_q2-pad3_ Q2N2907A
q1 net-_q1-pad1_ net-_q1-pad2_ net-_q1-pad3_ Q2N2222
q4 net-_q1-pad1_ net-_q1-pad3_ net-_q4-pad3_ Q2N2222
q6 net-_q16-pad1_ net-_q1-pad1_ net-_q6-pad3_ Q2N2907A
q8 gnd net-_q10-pad1_ net-_q6-pad3_ Q2N2907A
q7 net-_q10-pad1_ net-_q7-pad2_ net-_q4-pad3_ Q2N2222
q10 net-_q10-pad1_ net-_q10-pad1_ net-_q10-pad3_ Q2N2907A
q9 net-_q10-pad1_ net-_q9-pad2_ net-_q7-pad2_ Q2N2222
r3  net-_q18-pad3_ net-_q6-pad3_ 830
r4  net-_q18-pad3_ net-_q10-pad3_ 4.7k
r1  net-_q18-pad3_ net-_q2-pad3_ 4.7k
q13 net-_q12-pad3_ net-_q13-pad2_ net-_q13-pad3_ Q2N2907A
r6  net-_q18-pad3_ net-_q13-pad3_ 1k
r8  net-_q18-pad3_ net-_q9-pad2_ 5k
q12 net-_q11-pad1_ net-_q11-pad3_ net-_q12-pad3_ Q2N2907A
q14 gnd net-_q14-pad2_ net-_q12-pad3_ Q2N2907A
r2  net-_q4-pad3_ gnd 10k
q11 net-_q11-pad1_ net-_q11-pad2_ net-_q11-pad3_ Q2N2907A
q15 gnd net-_q15-pad2_ net-_q14-pad2_ Q2N2907A
r5  net-_q11-pad1_ gnd 100k
r9  net-_q9-pad2_ net-_q15-pad2_ 5k
r10  net-_q15-pad2_ gnd 5k
q16 net-_q16-pad1_ net-_q11-pad1_ gnd Q2N2222
q17 net-_d1-pad2_ net-_q16-pad1_ gnd Q2N2222
q20 net-_q19-pad1_ net-_d1-pad2_ gnd Q2N2222
r12  net-_q19-pad1_ net-_q16-pad1_ 4.7k
d1 net-_d1-pad1_ net-_d1-pad2_ 1N4148
r11  net-_d1-pad1_ net-_q13-pad2_ 7k
q21 net-_d2-pad2_ net-_q19-pad1_ net-_q21-pad3_ Q2N2222
r13  net-_d2-pad2_ net-_q18-pad3_ 6.8k
q22 net-_q18-pad3_ net-_d2-pad2_ net-_q22-pad3_ Q2N2222
q23 net-_q18-pad3_ net-_q22-pad3_ net-_d2-pad1_ Q2N2222
r16  net-_q22-pad3_ net-_d2-pad1_ 3.9k
d2 net-_d2-pad1_ net-_d2-pad2_ 1N4148
r15  net-_q21-pad3_ net-_q24-pad2_ 220
q24 net-_d2-pad1_ net-_q24-pad2_ gnd Q2N2222
r14  net-_q21-pad3_ gnd 4.7k
q3 net-_q3-pad1_ net-_q3-pad2_ net-_d1-pad1_ Q2N2907A
q5 net-_q5-pad1_ net-_q3-pad1_ gnd Q2N2222
r7  net-_q21-pad3_ net-_q3-pad1_ 100
q18 net-_q13-pad2_ net-_q13-pad2_ net-_q18-pad3_ Q2N2907A
q19 net-_q19-pad1_ net-_q13-pad2_ net-_q18-pad3_ Q2N2907A
* Control Statements

.ends MC1455B_ic1